US07947693B2
b) 3-{(1R)-1-[(2-Amino-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-5-yl)thio]ethyl}benzamide
The title compound was synthesized as a mixture of two diastereomers by general method A from the reaction of (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol (30 mg, 100 μmol) with 3-(1-chloroethyl)benzamide (20 mg, 100 μmol). Separation of the mixture by preparative HPLC gave a single diastereomer (6 mg, 13% yield) as an oil.

reactant | (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 100 μmol, 30 mg | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S)N1 | C11H17N5OS2
reactant | 3-(1-chloroethyl)benzamide | 100 μmol, 20 mg | ClC(C)C=1C=C(C(=O)N)C=CC1 | C9H10ClNO
product | 3-{(1R)-1-[(2-Amino-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-5-yl)thio]ethyl}benzamide | 13% yield | NC=1SC2=C(N=C(N=C2N[C@H](CC(C)C)CO)S[C@H](C)C=2C=C(C(=O)N)C=CC2)N1 | C20H26N6O2S2
